US04277621
The procedure described in Example 1(b) is repeated, except that 23.3 g (0.1 mol) of 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene, 20 gof 37% hydrochloric acid, 20 ml of water and 11.15 g (0.1 mol) of semicarbazide hydrochloride are used. Working up yields 26.5 g (0.086 mol)of 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal semicarbazone; yield 86% of theory.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene | 0.1 mol, 23.3 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
reactant | hydrochloric acid | Cl | ClH
reactant | semicarbazide hydrochloride | 0.1 mol, 11.15 g | Cl.NNC(=O)N
solvent | water | 20 ml | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal semicarbazone | 0.086 mol, 26.5 g, yield 86% | CC(C=NNC(=O)N)(CC=CCCC=CCC(N)C(C)C)C | C17H32N4O
